US03951967
Step A: Preparation of 6-Trifluoromethyl-7-chlorosulfonyl-1,2,4-benzothiadiazine-1,1-dioxide
6-Trifluoromethyl-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide (0.2 mole) is added portionwise with stirring to chlorosulfonic acid (300 ml.) cooled in an ice-bath over 30 minutes. The mixture is then heated for 2 hours on the steam bath, cooled and poured onto a mixture of ice and water. The solid is collected on the filter, washed with cold water and air-dried at room temperature and recrystallized from acetone-hexane.

reactant | 6-Trifluoromethyl-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide | 0.2 mole | FC(C=1C(=CC2=C(N=CNS2(=O)=O)C1)S(N)(=O)=O)(F)F | C8H6F3N3O4S2
reactant | chlorosulfonic acid | 300 ml | ClS(=O)(=O)O | ClHO3S
solvent | water | O | H2O
product | 6-Trifluoromethyl-7-chlorosulfonyl-1,2,4-benzothiadiazine-1,1-dioxide | FC(C=1C(=CC2=C(N=CNS2(=O)=O)C1)S(=O)(=O)Cl)(F)F | C8H4ClF3N2O4S2
